US05547972
The acetophenone (3.3 g) from (b) and 1-(3-aminopropyl)imidazole (7.1 g) were dissolved in methanol (30 ml). Saturated methanolic hydrogen chloride (3 ml) was added to this solution, followed by sodium cyanoborohydride (0.84 g). The resulting mixture was stirred at ambient temperature for 48 hours and then left standing for 64 hours. Concentrated hydrochloric acid (6 ml) and water (30 ml) were added and the mixture stirred for 10 minutes. The mixture was diluted with water, washed with dichloromethane, basified with 5M sodium hydroxide solution and then extracted with dichloromethane. The combined extracts were dried and evaporated to give an oil which was dissolved in diethyl ether and acidified with ethereal hydrogen chloride. The solid obtained was collected by filtration and dried under vacuum to give 5-chloro-2-{1-[3-(imidazol-1-yl)propylamino]ethyl}phenol dihydrochloride, m.p. >300° C.

reactant | acetophenone | 3.3 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | 1-(3-aminopropyl)imidazole | 7.1 g | NCCCN1C=NC=C1 | C6H11N3
reactant | hydrogen chloride | 3 ml | Cl | ClH
reactant | sodium cyanoborohydride | 0.84 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 6 ml | Cl | ClH
reactant | methanol | 30 ml | CO | CH4O
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | 30 ml | O | H2O
product | 5-chloro-2-{1-[3-(imidazol-1-yl)propylamino]ethyl}phenol dihydrochloride | Cl.Cl.ClC=1C=CC(=C(C1)O)C(C)NCCCN1C=NC=C1 | InChI=1S/C14H18ClN3O.2ClH/c1-11(13-4-3-12(15)9-14(13)19)17-5-2-7-18-8-6-16-10-18;;/h3-4,6,8-11,17,19H,2,5,7H2,1H3;2*1H
